US09238647B2
Step D: tert-butyl 8-chloro-3-phenyl[1,2,4]triazolo[4,3-a]pyridine-6-carboxylate
To a solution of tert-butyl 6-(2-benzoylhydrazino)-5-chloronicotinate (3.3 g, 9.49 mmol) in toluene (40 mL) was added Lawesson's reagent (1.92 g, 4.74 mmol). The mixture was stirred at 80° C. After 2 h, the mixture was concentrated. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with ethyl acetate (3×). The combined organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→60% dichloromethane/ethyl acetate) gave the title compound (1.42 g): LC-MS [M+1]=330.1.

reactant | tert-butyl 6-(2-benzoylhydrazino)-5-chloronicotinate | 9.49 mmol, 3.3 g | C(C1=CC=CC=C1)(=O)NNC1=NC=C(C(=O)OC(C)(C)C)C=C1Cl | C17H18ClN3O3
reactant | Lawesson's reagent | 4.74 mmol, 1.92 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 8-chloro-3-phenyl[1,2,4]triazolo[4,3-a]pyridine-6-carboxylate | 1.42 g | ClC=1C=2N(C=C(C1)C(=O)OC(C)(C)C)C(=NN2)C2=CC=CC=C2 | C17H16ClN3O2
